US09282743B2
Step 1: Preparation of N′-[2-(2,4,6-Trimethyl-phenyl)-acetyl]-hydrazinecarboxylic acid ethyl ester
To a solution of hydrazinecarboxylic acid ethyl ester (ethyl carbazate, 32.8 g, 314.9 mmol) and triethylamine (44.1 ml, 32.0 g, 316.4 mmol) in tetrahydrofuran (1000 ml) at 0° C. was added (2,4,6-trimethyl-phenyl)-acetyl chloride (62.0 g, 315.2 mmol) dropwise. The thick suspension was stirred at room temperature for one hour and the solvent evaporated. The residue was suspended in a mixture of t-butyl methyl ether (500 ml) and water (500 ml), stirred, filtered and the solid washed with small portions of water and t-butyl methyl ether. The solid was dried in vacuo over phosphorus pentoxide at 40° C. Yield: 78.4 g of N′-[2-(2,4,6-trimethyl-phenyl)-acetyl]-hydrazinecarboxylic acid ethyl ester as a white solid, mp 184-186° C.

reactant | hydrazinecarboxylic acid ethyl ester | 314.9 mmol, 32.8 g | C(C)OC(=O)NN | C3H8N2O2
reactant | triethylamine | 316.4 mmol, 44.1 ml, 32.0 g | C(C)N(CC)CC | C6H15N
reactant | (2,4,6-trimethyl-phenyl)-acetyl chloride | 315.2 mmol, 62.0 g | CC1=C(C(=CC(=C1)C)C)CC(=O)Cl | C11H13ClO
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | N′-[2-(2,4,6-Trimethyl-phenyl)-acetyl]-hydrazinecarboxylic acid ethyl ester | C(C)OC(=O)NNC(CC1=C(C=C(C=C1C)C)C)=O | C14H20N2O3
